US07989454B2
3-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-(4-methyl-thiophen-3-yl)-benzoic acid tert-butyl ester
3-Bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester (2.0 g) was dissolved in 1,2-dimethoxyethane (40 mL), followed by addition of Pd(PPh3)4 (80 mg), 2 M solution of sodium carbonate (6 mL) and 4-methyl-3-thiopheneboronic acid (641 mg). The resulting reaction mixture was stirred at 85° C. for 2 h. After cooling the reaction mixture was filtered through Celite™, diluted with ethyl acetate and washed with water and brine. The organic extract was dried over anhydrous sodium sulfate, concentrated under reduced pressure and purified on a silica gel column using ethyl acetate and hexanes to the title compound (1.8 g, 88% yield).

reactant | 3-Bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)Br)=O | C34H47BrO8
reactant | sodium carbonate | 6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-3-thiopheneboronic acid | 641 mg | CC=1C(=CSC1)B(O)O | C5H7BO2S
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-(4-methyl-thiophen-3-yl)-benzoic acid tert-butyl ester | 1.8 g, 88% yield | C(C)(C)(C)OC(C1=CC(=CC(=C1)C1=CSC=C1C)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)=O | C39H52O8S
